US06593330B2
Step 1: 2-Chloro-6-(2-thienylmethoxy)pyridine*
K-t-BuO (1.70 g, 15.1 mmol) was added portionwise to a stirred mixture of 2-thiophenemethanol (2.14 g, 18.7 mmol) and 2,6-dichloropyridine (2.13 g, 14.4 mmol) in dioxane (3 mL) at room temperature. An exotermic reaction started and more dioxane (3 mL) was added. After 3 h of stirring at room temperature, the reaction mixture was passed through a column of silica using n-hexane/ethyl acetate (85:15) as eluent. A second purification on silica (16×4 cm) using n-hexane/ethyl acetate (9:1) furnished 3.0 g (93%) of the title compound as a light beige oil. HRMS m/z calcd for C10H8ClNOS (M)+ 225.0015, found 225.0022. Anal. (C10H8ClNOS) C, H, N.

reactant | 2-thiophenemethanol | 18.7 mmol, 2.14 g | S1C(=CC=C1)CO | C5H6OS
reactant | 2,6-dichloropyridine | 14.4 mmol, 2.13 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-6-(2-thienylmethoxy)pyridine | 3.0 g, 93% | ClC1=NC(=CC=C1)OCC=1SC=CC1 | C10H8ClNOS
